US05264307
Diethylene glycol (85 g, 0.8 mol), ethyl vinyl ether (80 ml, 0.8 mol) and, as the catalyst, mercuric acetate Hg(CH3COO)2 are charged to a 3-neck flask of 250 ml, equipped with condenser and inlets for the reactants and an inert gas. The system is kept under refluxing conditions, at a temperature of 70°-80° C., for 10 hours. The product is recovered by extraction with methylene chloride and is separated from the corresponding divinyl ether by distillation. In that way, 40 g (0.3 mol) of diethylene glycol monovinyl ether is obtained, with a yield of 40%, and is added to a solution containing 40 ml of ethyl ether and 53 ml of pyridine. To the resulting mixture, kept at room temperature and under a flowing nitrogen stream, methacryloyl chloride (38.3 g, 0.37 mol) is added dropwise. The addition of the chloride causes the immediate precipitation of pyridinium hydrochloride. The reaction is discontinued when the disappearance of the monovinyl ether is observed. The product (A) is recovered from the reaction mixture via HPLC, using silica as the stationary phase and a mixture of 8:1 hexane:ethylacetate as the eluent. 42 g of 99%-pure product is obtained, which corresponds to a yield of 70% relatively to diethylene glycol monovinyl ether.

reactant | Diethylene glycol | 0.8 mol, 85 g | C(COCCO)O | C4H10O3
reactant | ethyl vinyl ether | 0.8 mol, 80 ml | C(=C)OCC | C4H8O
product | diethylene glycol monovinyl ether | 0.3 mol, 40 g, yield of 40% | C(=C)OCCOCCO | C6H12O3
